US07973078B2
300 mg of N2-(3-chloro-2-methylphenyl)-N-(3-cyanobenzyl)-N2-[(4-methylphenyl)sulfonyl]glycinamide was dissolved in 5.00 mL of DMF, and 125 mg of sodium azide and 103 mg of ammonium chloride were added thereto, followed by stirring at 100° C. for 6 hours. The reaction liquid was concentrated under reduced pressure, and to the obtained residue was added water, followed by extraction with chloroform. The organic layer was washed with saturated brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by preparative thin layer chromatography (chloroform:methanol=80:20). The obtained product was recrystallized from ethanol/diisopropyl ether to obtain 82.6 mg of N2-(3-chloro-2-methylphenyl)-N2-[(4-methylphenyl)sulfonyl]-N-[3-(2H-tetrazol-5-yl)benzyl]glycinamide.

reactant | N2-(3-chloro-2-methylphenyl)-N-(3-cyanobenzyl)-N2-[(4-methylphenyl)sulfonyl]glycinamide | 300 mg | ClC=1C(=C(C=CC1)N(CC(=O)NCC1=CC(=CC=C1)C#N)S(=O)(=O)C1=CC=C(C=C1)C)C | C24H22ClN3O3S
reactant | sodium azide | 125 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 103 mg | [Cl-].[NH4+]
solvent | DMF | 5.00 mL | CN(C)C=O | C3H7NO
product | N2-(3-chloro-2-methylphenyl)-N2-[(4-methylphenyl)sulfonyl]-N-[3-(2H-tetrazol-5-yl)benzyl]glycinamide | 82.6 mg | ClC=1C(=C(C=CC1)N(CC(=O)NCC1=CC(=CC=C1)C=1N=NNN1)S(=O)(=O)C1=CC=C(C=C1)C)C | C24H23ClN6O3S
